US07132428B2
b) N-(5-Phenyl-3-trifluoromethyl-1H-pyrazol-4-yl)-benzamide (BG1)
A solution of 1.0 g of 4-amino-5-phenyl-3-trifluoromethyl-1H-pyrazole in 30 mL of dichloromethane was treated with 1.1 mL of pyridine followed by 0.57 mL of benzoyl chloride. The reaction mixture was stirred at RT for 5 hours and then concentrated. The residue was partitioned between ethyl acetate and water. The organic portion was washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified by MPLC, eluting with 2/3 ethyl acetate/heptane, to give the title compound as a white solid, melting point 229–230° C.

reactant | 4-amino-5-phenyl-3-trifluoromethyl-1H-pyrazole | 1.0 g | NC=1C(=NNC1C1=CC=CC=C1)C(F)(F)F | C10H8F3N3
reactant | pyridine | 1.1 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.57 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(5-Phenyl-3-trifluoromethyl-1H-pyrazol-4-yl)-benzamide | C1(=CC=CC=C1)C1=C(C(=NN1)C(F)(F)F)NC(C1=CC=CC=C1)=O | C17H12F3N3O
